US04743685
(B) 4,5-Bis(phenylmethoxy)-2-pyridinemethanol
To a suspension of 95 mg (25 mmol) of lithium aluminum hydride in 10 ml of ether and 10 ml of tetrahydrofuran was added 1.06 g (25 mmol) of 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester in three portions at 0° C. After stirring for 20 minutes at 0° C., 0.2 ml of saturated sodium bicarbonate solution, 0.2 ml of 10% potassium hydroxide solution and additional saturated sodium bicarbonate solution were added until the inorganic precipitate flocked together. The clear organic phase was decanted and evaporated in vacuo to yield an oil which slowly crystallized. Yield: 0.6 g, melting point 96.6° C.

reactant | lithium aluminum hydride | 25 mmol, 95 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,5-bis(phenylmethoxy)-2-pyridinecarboxylic acid, phenylmethyl ester | 25 mmol, 1.06 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C27H23NO4
reactant | sodium bicarbonate | 0.2 ml | C([O-])(O)=O.[Na+]
reactant | potassium hydroxide | 0.2 ml | [OH-].[K+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4,5-Bis(phenylmethoxy)-2-pyridinemethanol | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)CO | C20H19NO3
